US07851473B2
(1) 2,2,2-Trichloroethyl (2-oxo-2,3-dihydro-1H-indol-5-yl)carbamate
To a solution of 5-amino-1,3-dihydro-2H-indol-2-one (1.00 g, 6.75 mmol) and pyridine (1.64 ml, 20.3 mmol) in N,N-dimethylacetamide (6 ml) and tetrahydrofuran (50 ml) was added 2,2,2-trichloroethyl chloroformate (1.40 ml, 10.2 mmol) with ice-cooling, the mixture was stirred for 1 hour with ice-cooling, the reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure to obtain the desired product (1.90 g, 87.2%) as a solid.

reactant | 5-amino-1,3-dihydro-2H-indol-2-one | 6.75 mmol, 1.00 g | NC=1C=C2CC(NC2=CC1)=O | C8H8N2O
reactant | pyridine | 20.3 mmol, 1.64 ml | N1=CC=CC=C1 | C5H5N
reactant | 2,2,2-trichloroethyl chloroformate | 10.2 mmol, 1.40 ml | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
reactant | water | O | H2O
solvent | N,N-dimethylacetamide | 6 ml | CN(C(C)=O)C | C4H9NO
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2,2,2-Trichloroethyl (2-oxo-2,3-dihydro-1H-indol-5-yl)carbamate | 1.90 g, 87.2% | O=C1NC2=CC=C(C=C2C1)NC(OCC(Cl)(Cl)Cl)=O | C11H9Cl3N2O3
